data/core_train_final.csv
"CC12CCCCC1CCCC2.[Br:20][Br:21].[He]>>[He].CC12CCCCC1CCCC2.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:1][C:2]1[CH2:6][CH2:5][CH:4]=[CH:3]1.[Br:7]>>[H:1][C:2]1([CH2:6][CH2:5][CH:4]=[CH:3]1)[Br:7] 7-2,7;2-2,7",Room Temperature,Termination,recombine
"[CH2:5]=[CH:4][C:2](=[CH2:1])[Cl:3].[O-:9][S:7](=[O:6])(=[O:10])[O:8]>>[CH2:5]=[CH:4][C:2]([CH2:1][O:8][S:7](=[O:10])(=[O:6])[O-:9])[Cl:3] 8-1,8; 1,2-1,8; 1,2-2",Room Temperature,Propagation,addition
"[CH3:1][C:2](=[O:6])[CH2:3][O:4][O:5].[N:7]=[O:8]>>[CH3:1][C:2](=[O:6])[CH2:3][O:4][O:5][N:7]=[O:8] 5-5,7; 7-5,7",Room Temperature,Termination,recombine
"O=C(C1=C2C=CC=C1)[N:1]([Br:2])C2=O.[He]>>[He].O=C(C3=C4C=CC=C3)[N:1]C4=O.[Br:2] 1,2-1;1,2-2",Light,Initiation,homolyze
"C[C:10](C)O[Mg]O[C:20](C)C>>C[C:10]1(C)O[Mg]O[C:20](C)1C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH:12]=[CH:11][CH:10]=[CH:9][CH:8][CH2:7][CH2:6][CH2:5][CH2:4][CH3:3].[O:1][O:2]>>[CH3:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH:12]=[CH:11][CH:10]=[CH:9][CH:8]([CH2:7][CH2:6][CH2:5][CH2:4][CH3:3])[O:1][O:2] 8-8,1;1-1,8",Room Temperature,Termination,recombine
"[H:1][CH:2][C:3]1=[CH:4][C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[C:10]2[CH:11]=[CH:12]1.[Br:13]>>[H:1][CH:2]([C:3]1=[CH:4][C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[C:10]2[CH:11]=[CH:12]1)[Br:13] 2-2,13;13-2,13",Room Temperature,Termination,recombine
"[CH3:7][C:6](=[CH:5][CH2:4][C:3]12[CH2:12][CH2:11][CH2:10][N:9]1[C:23](=[O:24])[C:15]([N:13]([C:2]2=[O:1])[CH3:14])[C:16](=[O:22])[O:17][C:18]([CH3:19])([CH3:20])[CH3:21])[CH3:8]>>[CH3:7][C:6]([CH3:8])[CH:5]1[CH2:4][C:3]23[CH2:12][CH2:11][CH2:10][N:9]2[C:23](=[O:24])[C:15]1([N:13]([C:2]3=[O:1])[CH3:14])[C:16](=[O:22])[O:17][C:18]([CH3:19])([CH3:20])[CH3:21] 15-15,5; 5,6-15,5; 5,6-6",Room Temperature,Propagation,addition
"C[CH:21]=[CH2:20].C[CH:10]CC1=CC=CC=C1>>C[CH:21][CH2:20][CH:10](C)CC1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:19][C:18](=[CH:17][C:2]([H:1])([H:16])[CH:3]=[CH:4][CH2:5][CH:6]=[CH:7][CH2:8][CH:9]=[CH:10][CH2:11][CH2:12][CH2:13][CH2:14][CH3:15])[CH2:20][CH2:21][CH2:22][C:23](=[O:25])[OH:24].[O:26][O:27]>>[H:19][C:18](=[CH:17][C:2]([H:1])[CH:3]=[CH:4][CH2:5][CH:6]=[CH:7][CH2:8][CH:9]=[CH:10][CH2:11][CH2:12][CH2:13][CH2:14][CH3:15])[CH2:20][CH2:21][CH2:22][C:23](=[O:25])[OH:24].[H:16][O:27][O:26] 2,16-16,27;27-27,16;16,2-2",Room Temperature,Propagation,abstraction
"CCCCCC.[Br:20][Br:21].[He]>>[He].CCCCCC.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:3][CH2:2][CH3:1].[Cl:4]>>[H:3][Cl:4].[CH3:1][CH2:2] 4-3,4;2,3-3,4;2,3-2",Room Temperature,Propagation,abstraction
"C[C:10](C)C#N.[CH2:20]=[CH:21]Cl>>C[C:10](C)([CH2:20][CH:21]Cl)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][Sn:21](CCCC)(CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)Br.CC1CCC(=O)[C:10]1CC(C)(C)CCC(=O)C>>[H:20][C:10]1(C(CCC1=O)C)CC(C)(C)CCC(=O)C.CCCC[Sn:21](CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O=[S:10]([Cl:11])=O>>O=[S:10]=O.[Cl:11] 10,11-10;10,11-11",Room Temperature,Propagation,homolyze
"CCC[C:10](C)CC.[Br:20][Br:21]>>CCC[C:10](C)(CC)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:2][O:3][Br:1]>>[O:2][O:3].[Br:1] 1,3-1; 1,3-3",Room Temperature,Initiation,homolyze
"[CH3:5][CH:4][C:3](=[O:6])[O:2][CH3:1].[CH3:7][C:8]1([CH:14]2[CH2:13][CH:10]1[C:11](=[CH2:12])[CH:16]([CH2:15]2)[O:17][O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[CH3:9]>>[CH3:5][CH:4]([CH2:12][C:11]1[CH:10]2[CH2:13][CH:14]([C:8]2([CH3:7])[CH3:9])[CH2:15][CH:16]1[O:17][O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[C:3](=[O:6])[O:2][CH3:1] 11,12-4,12; 11,12-11; 4-4,12",Room Temperature,Propagation,addition
"CC1CCCCC1(C)C.[Br:20][Br:21].[He]>>[He].CC1CCCCC1(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[Cl:20][Cl:21].[Ar]>>[Ar].[Cl:20].[Cl:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"CCC(C(Cl)(Cl)Cl)F.[Cl:20][Cl:21].[He]>>[He].CCC(C(Cl)(Cl)Cl)F.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH3:1][O:2].[Br:4][H:3]>>[CH3:1][O:2][H:3].[Br:4] 2-2,3; 3,4-2,3;3,4-4",Room Temperature,Propagation,abstraction
"C1CCCCC1.[Br:20][Br:21].[He]>>[He].C1CCCCC1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCC[CH:10]CC.[Cl:20][Cl:21]>>CCC[CH:10](CC)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][O:3][C:4](=[O:6])[O:5].[CH2:7]=[CH:8][Cl:9]>>[CH3:1][CH2:2][O:3][C:4](=[O:6])[O:5][CH2:7][CH:8][Cl:9] 5-5,7; 7,8-5,7; 7,8-8",Room Temperature,Propagation,addition
"[H:5][O:6].[H:1][O:2][O:3][H:4]>>[H:5][O:6][H:4].[H:1][O:2][O:3] 6-6,4; 3,4-3; 3,4-6,4",Room Temperature,Propagation,abstraction
"CC1CCCC(=C)[CH:10]1.[Br:20][Br:21]>>CC1CCCC(=C)[CH:10]1[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
